US06329399B1
Preparation of 4-(1-methyl-1-phenylethyl)benzaldehyde
Trifluoroacetic acid (35 ml), was mixed with 3.93 g(20.0 mmol), of 2,2-diphenylpropane and 2.80 g (20.0 mmol), of hexamethylenetetramine and heated to reflux for 16 hours. After cooling to room temperature, the reaction mixture was poured into ice water and the mixture was stirred for 1 hour. The solution was adjusted to pH=about 9 and extracted with 100 ml of diethyl ether. The organic extract was washed with saturated saline and dried with sodium sulfate and the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1), to obtain 3.61 g (yield: 80.5%), of the target compound as a pale yellow oily substance.

reactant | Trifluoroacetic acid | 35 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,2-diphenylpropane | C1(=CC=CC=C1)C(C)(C)C1=CC=CC=C1 | C15H16
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
product | 4-(1-methyl-1-phenylethyl)benzaldehyde | yield: 80.5% | CC(C)(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C16H16O
